* D:\Github\Liquid Tremolo\Liquid Tremolo.asc
V1 N002 0 SINE(0 100m 1k) AC 1
C1 N003 N002 47n
R1 +Vb N003 470k
V2 +9V 0 9
R2 +9V +Vb 10k
R3 +Vb 0 10k
Q1 +9V N003 N012 0 2N2222
R4 N012 0 10k
C2 N001 N012 470n
XU1 N001 N008 +9V 0 N004 AD712
R5 N004 N008 10k
R6 N014 N008 10k
C3 N014 0 1µ
R7 N005 N006 {(1-POT)*10k}
C4 N005 N004 470n
R8 N006 0 {POT*10k}
R9 +Vb N001 470k
C5 N007 N006 470n
R10 +Vb N007 470k
XU2 N007 N011 +9V 0 N009 AD712
R11 N009 N011 10k
R12 N015 N011 10k
C6 N015 0 1µ
R13 N010 N013 5k
R14 N013 0 5k
C7 N010 N009 470n
.model NPN NPN
.model PNP PNP
.lib C:\Users\Konstruktor\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 1000 1 100k
* Digital Potentiometer
.step param POT 1% 99% 50%
.lib ADI1.lib
.backanno
.end
